US06559145B2
6-Bromo-N-(4-chlorobenzyl)-1-methyl-1H-thieno[2,3-e][1,3,4]thiadiazine-3-carboxamide 4,4-Dioxide [BD.2, X=Chloro].
A solution containing N-(4-chlorobenzyl)-1-methyl-1H-thieno[2,3-e][1,3,4]-thiadiazine-3-carboxamide 4,4-dioxide (Preparation 56, 0.14 g) and anhydrous DMF (2 mL) is stirred under nitrogen while adding N-bromosuccinimide (0.074 g) in one portion. This solution is stirred overnight at room temperature before diluting with CH2Cl2 (50 mL) and washing with water (60 mL). The organic portion is separated and washed with brine, dried over Na2SO4, filtered, and concentrated to give a brown oil. Physical characteristics: MS (ESI+) m/z 448 (M+H)+, 450.

reactant | N-(4-chlorobenzyl)-1-methyl-1H-thieno[2,3-e][1,3,4]-thiadiazine-3-carboxamide 4,4-dioxide | 0.14 g | ClC1=CC=C(CNC(=O)C=2S(C3=C(N(N2)C)SC=C3)(=O)=O)C=C1 | C14H12ClN3O3S2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | N-bromosuccinimide | 0.074 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-N-(4-chlorobenzyl)-1-methyl-1H-thieno[2,3-e][1,3,4]thiadiazine-3-carboxamide 4,4-Dioxide | BrC1=CC2=C(N(N=C(S2(=O)=O)C(=O)NCC2=CC=C(C=C2)Cl)C)S1 | C14H11BrClN3O3S2
